US05051413
1.6 g of red copper(I) oxide are added to 200 ml of benzene. With intensivestirring, a solution of 140 g of isocyanoacetic acid ethyl ester and 84 g of freshly distilled acrolein in 200 ml of benzene are added dropwise to this suspension within a period of 10 minutes. During the course of this addition the reaction temperature is maintained between 30° and 32° by cooling with ice. When the addition is complete the mixture is maintained at 30°-32° until the exothermic reaction has subsided, and then the whole is stirred for 1 hour at room temperature. After excess copper(I) oxide has been removed by filtration, the filtrate is concentrated by evaporation in vacuo at 30°. 600 ml of ether areadded to the residue, and the whole is filtered over celite and concentrated to dryness by evaporation in vacuo. In this manner 5-vinyl-2-oxazoline-4-carboxylic acid ethyl ester is obtained in the form of a pale yellow oil, b.p. 100°-110° (5.3 Pa).

reactant | isocyanoacetic acid ethyl ester | 140 g | C(C)OC(C[N+]#[C-])=O | C5H7NO2
reactant | acrolein | C(=O)C=C | C3H4O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
catalyst | copper(I) oxide | 1.6 g | [Cu-]=O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 5-vinyl-2-oxazoline-4-carboxylic acid ethyl ester | C(C)OC(=O)C1N=COC1C=C | C8H11NO3
